US05716954
To a suspension of 6-(4-pyridylmethyl)-8-(3-nitrophenyl)pyrido[2,3-d]pyridazin-5-one in methanol is added 5% HCl/MeOH in a dropwise manner with stirring until a clear solution is obtained. The solvent is stripped off. The resulting solid is triturated with ethyl ether. The product is filtered off and dried under vacuum yielding 6-(4-pyridylmethyl)-8-(3-nitrophenyl)pyrido[2,3-d]pyridazin-5-one hydrochloride.

reactant | 6-(4-pyridylmethyl)-8-(3-nitrophenyl)pyrido[2,3-d]pyridazin-5-one | N1=CC=C(C=C1)CN1N=C(C2=C(C1=O)C=CC=N2)C2=CC(=CC=C2)[N+](=O)[O-] | C19H13N5O3
reactant | HCl MeOH | Cl.CO
solvent | methanol | CO | CH4O
product | 6-(4-pyridylmethyl)-8-(3-nitrophenyl)pyrido[2,3-d]pyridazin-5-one hydrochloride | Cl.N1=CC=C(C=C1)CN1N=C(C2=C(C1=O)C=CC=N2)C2=CC(=CC=C2)[N+](=O)[O-] | InChI=1S/C19H13N5O3.ClH/c25-19-16-5-2-8-21-18(16)17(14-3-1-4-15(11-14)24(26)27)22-23(19)12-13-6-9-20-10-7-13;/h1-11H,12H2;1H
